US08648066B2
(2S)—N-({6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methyl)butan-2-amine.
Prepared according to the method of example 6 by using 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate and (S)-benzyl sec-butyl((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)carbamate (reagent preparation 17) in step 3 followed by Cbz deprotection. 1H NMR (400 MHz, DMSO-d6) δ 8.61-8.44 (m, 1H), 8.12-7.93 (m, 1H), 7.71 (d, 1H), 7.54 (dd, 1H), 7.03 (d, 1H), 4.67 (s, 2H), 4.35-4.27 (m, 2H), 3.92-3.84 (m, 2H), 3.56 (q, 2H), 2.69 (t, 3H), 2.54 (s, 2H), 2.45 (s, 3H), 2.42-2.30 (m, 1H), 1.59 (t, 2H), 1.27 (dd, 2H), 1.18-1.04 (m, 1H), 0.87 (s, 6H), 0.83 (d, 3H), 0.70 (t, 3H); MS (EI) for C31H39N7O: 526 (MH+).

reactant | 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | CC=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C21H24N4O3
reactant | (S)-benzyl sec-butyl((4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)methyl)carbamate | [C@H](C)(CC)N(C(OCC1=CC=CC=C1)=O)CC1=NC=2CCC(CC2C(=N1)Cl)(C)C | C23H30ClN3O2
product | (2S)—N-({6,6-dimethyl-4-[7-(2-methyl-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]-5,6,7,8-tetrahydroquinazolin-2-yl}methyl)butan-2-amine | CC1(CC=2C(=NC(=NC2CC1)CN[C@@H](C)CC)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)C)C | C31H39N7O
